US07592373B2
3-(3-bromobiphenyl-4-yl)propynoic acid-[3-chloro-4-(2-pyrrolidin-1-ylethyl)phenyl]amide
Prepared analogously to Example 2.3.f. from (3-bromobiphenyl-4-yl)propynoic acid and 3-chloro-4-(2-pyrrolidin-1-ylethyl)phenylamine. Yield: 140 mg (27.2% of theory); C27H24BrClN201 (M=507.84); calc.: molecular ion peak (M+H)+: 507/09/11; found: molecular ion peak (M+H)+: 507/09/11.

reactant | (3-bromobiphenyl-4-yl)propynoic acid | BrC=1C=C(C=CC1C#CC(=O)O)C1=CC=CC=C1 | C15H9BrO2
reactant | 3-chloro-4-(2-pyrrolidin-1-ylethyl)phenylamine | ClC=1C=C(C=CC1CCN1CCCC1)N | C12H17ClN2
product | 3-(3-bromobiphenyl-4-yl)propynoic acid-[3-chloro-4-(2-pyrrolidin-1-ylethyl)phenyl]amide | ClC=1C=C(C=CC1CCN1CCCC1)NC(C#CC1=C(C=C(C=C1)C1=CC=CC=C1)Br)=O | C27H24BrClN2O
